### PR TITLE
Added Erdos979

### LINKED ISSUE #1051: Erdős Problem 979
### What is the conjecture

https://www.erdosproblems.com/979

  Let $k\geq 2$, and let $f_k(n)$ count the number of solutions to
$$n=p_1^k+\cdots+p_k^k,$$
where the $p_i$ are prime numbers. Is it true that $\limsup f_k(n)=\infty$?

Status:  open

### PR DESCRIPTION
**Pull request by zond**
fixes #1051

### CODE REVIEW

File: FormalConjectures/ErdosProblems/979.lean [hunk 1]
```diff
@@ -0,0 +1,41 @@
...
+/-!
+# Erdős Problem 979
+
+*Reference:* [erdosproblems.com/979](https://www.erdosproblems.com/979)
+-/
+
+namespace Erdos979
+
+import Mathlib
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/979.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/979.lean [hunk 2]
```diff
@@ -0,0 +1,41 @@
...
+/--
+Let k ≥ 2 , and let f_k ( n ) count the number of solutions to n = p_1^k + \dots + p_k^k,
+where the p_i are prime numbers. Is it true that lim sup f_k ( n ) = \infty?
+-/
+@[category research open, AMS 11]
+theorem erdos_979 (k : ℕ) (_ : k >= 2):
+    Filter.limsup (fun n => (solutionSet n k).ncard) Filter.atTop = ⊤ ↔ answer(sorry) by
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/979.lean:38]: Let's add two more statements ` @[category research solved, AMS 11]` about $k=3$ and $k=2$ or leave a TODO about it.

File: FormalConjectures/ErdosProblems/979.lean [hunk 3]
```diff
@@ -0,0 +1,41 @@
...
+def solutionSet (n k : ℕ) : Set (Fin k → ℕ) :=
+  {p | (∀ i : Fin k, Nat.Prime (p i)) ∧ n = ∑ i, (p i) ^ k}
+
+/--
+Let k ≥ 2 , and let f_k ( n ) count the number of solutions to n = p_1^k + \dots + p_k^k,
+where the p_i are prime numbers. Is it true that lim sup f_k ( n ) = \infty?
+-/
+@[category research open, AMS 11]
+theorem erdos_979 (k : ℕ) (_ : k >= 2):
+    Filter.limsup (fun n => (solutionSet n k).ncard) Filter.atTop = ⊤ ↔ answer(sorry) by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/979.lean]:
```suggestion
       Filter.limsup (fun (n : ℕ) => (solutionSet n k).encard) ⊤ = ⊤ ↔ answer(sorry) := by

```

File: FormalConjectures/ErdosProblems/979.lean [hunk 4]
```diff
@@ -0,0 +1,41 @@
...
+# Erdős Problem 979
+
+*Reference:* [erdosproblems.com/979](https://www.erdosproblems.com/979)
+-/
+
+namespace Erdos979
+
+import Mathlib
+
+def solutionSet (n k : ℕ) : Set (Fin k → ℕ) :=
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/979.lean]: I think here we are counting different permutations more than once, for instance 
`solutionSet 13 2` now would contain [2, 3] and also [3, 2]`.
I'm not entirely sure if this is intended, although I don't think it changes if the `limsup` is infinite.

Comment (mo271) [inline FormalConjectures/ErdosProblems/979.lean]:
```suggestion
def solutionSet (n k : ℕ) : Set (Multiset ℕ) :=
  {P | (∀ p ∈ P, p.Prime) ∧ n =  (P.toList.map fun p => p ^ k).sum}
```
perhaps?

File: FormalConjectures/ErdosProblems/979.lean [hunk 5]
```diff
@@ -0,0 +1,52 @@
...
+*Reference:* [erdosproblems.com/979](https://www.erdosproblems.com/979)
+-/
+
+namespace Erdos979
+
+def solutionSet (n k : ℕ) : Set (Multiset ℕ) :=
+  {P | P.card = k ∧ (∀ p ∈ P, Nat.Prime p) ∧ n = (P.map (. ^ k)).sum}
+
+noncomputable def solutionCard (n k : ℕ) : ℕ∞ :=
+  (solutionSet n k).ncard
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/979.lean]:
```suggestion
  (solutionSet n k).encard
```

File: FormalConjectures/ErdosProblems/979.lean [hunk 6]
```diff
@@ -0,0 +1,49 @@
...
+-/
+@[category research open, AMS 11]
+theorem erdos_979 (k : ℕ) (_ : k >= 2):
+    Filter.limsup (fun n => (solutionSet n k).encard) Filter.atTop = ⊤ ↔ answer(sorry) := by
+  sorry
+
+@[category research solved, AMS 11]
+theorem erdos_979_k2 :
+  Filter.limsup (fun n => (solutionSet n 2).encard) Filter.atTop = ⊤ :=
+  sorry  -- Erdős 1937
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/979.lean]: please turn "Erdős 1937" into a doc comment for the theorem instead (and add the citation, see other files how we do it (somewhat incosistently), dito for the theorem below

Comment (zond) [reply FormalConjectures/ErdosProblems/979.lean]: Better?

File: FormalConjectures/ErdosProblems/979.lean [hunk 7]
```diff
@@ -0,0 +1,55 @@
...
+Let k ≥ 2 , and let f_k ( n ) count the number of solutions to n = p_1^k + \dots + p_k^k,
+where the p_i are prime numbers. Is it true that lim sup f_k ( n ) = \infty?
+-/
+@[category research open, AMS 11]
+theorem erdos_979 (k : ℕ) (_ : k >= 2):
+    Filter.limsup (fun n => (solutionSet n k).encard) Filter.atTop = ⊤ ↔ answer(sorry) := by
+  sorry
+
+/--
+Erdős [Er37b] in 1937.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/979.lean]:
```suggestion
Erdős [Er37b] proved that if $f_2(n)$ counts the number of solutions to $n = p_1^2 + p_2^2$, where $p_1$ and $p_2$ are prime numbers, then $\lim sup f_2(n) = \infty$.

[Er37b] Erdős, Paul, On the Sum and Difference of Squares of Primes. J. London Math. Soc. (1937), 133--136. 
```

File: FormalConjectures/ErdosProblems/979.lean [hunk 8]
```diff
@@ -0,0 +1,55 @@
...
+-/
+
+namespace Erdos979
+
+def solutionSet (n k : ℕ) : Set (Multiset ℕ) :=
+  {P | P.card = k ∧ (∀ p ∈ P, Nat.Prime p) ∧ n = (P.map (. ^ k)).sum}
+
+/--
+Let k ≥ 2 , and let f_k ( n ) count the number of solutions to n = p_1^k + \dots + p_k^k,
+where the p_i are prime numbers. Is it true that lim sup f_k ( n ) = \infty?
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/979.lean]:
```suggestion
Let $k ≥ 2$, and let $f_k(n)$ count the number of solutions to $n = p_1^k + \dots + p_k^k$,
where the $p_i$ are prime numbers. Is it true that $\limsup f_k(n) = \infty$?
```

File: FormalConjectures/ErdosProblems/979.lean (hunk 7 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/979.lean]: also something like that below

File: FormalConjectures/ErdosProblems/979.lean [hunk 9]
```diff
@@ -0,0 +1,57 @@
...
+  sorry
+
+/--
+Erdős [Er37b] proved that if $f_2(n)$ counts the number of solutions to $n = p_1^2 + p_2^2$, where $p_1$ and $p_2$ are prime numbers, then $\lim sup f_2(n) = \infty$.
+
+[Er37b] Erdős, Paul, On the Sum and Difference of Squares of Primes. J. London Math. Soc. (1937), 133--136. 
+-/
+@[category research solved, AMS 11]
+theorem erdos_979_k2 :
+  Filter.limsup (fun n => (solutionSet n 2).encard) Filter.atTop = ⊤ :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/979.lean]:
```suggestion
    Filter.limsup (fun n => (solutionSet n 2).encard) Filter.atTop = ⊤ :=
```

File: FormalConjectures/ErdosProblems/979.lean [hunk 10]
```diff
@@ -0,0 +1,57 @@
...
+  sorry
+
+/--
+Erdős (unpublished)
+-/
+@[category research solved, AMS 11]
+theorem erdos_979_k3 :
+  Filter.limsup (fun n => (solutionSet n 3).encard) Filter.atTop = ⊤ :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/979.lean]:
```suggestion
    Filter.limsup (fun n => (solutionSet n 3).encard) Filter.atTop = ⊤ :=
```

File: FormalConjectures/ErdosProblems/979.lean [hunk 11]
```diff
@@ -0,0 +1,57 @@
...
+  {P | P.card = k ∧ (∀ p ∈ P, Nat.Prime p) ∧ n = (P.map (. ^ k)).sum}
+
+/--
+Let $k ≥ 2$, and let $f_k(n)$ count the number of solutions to $n = p_1^k + \dots + p_k^k$,
+where the $p_i$ are prime numbers. Is it true that $\limsup f_k(n) = \infty$?
+-/
+@[category research open, AMS 11]
+theorem erdos_979 (k : ℕ) (_ : k >= 2):
+    Filter.limsup (fun n => (solutionSet n k).encard) Filter.atTop = ⊤ ↔ answer(sorry) := by
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/979.lean:37]:
```suggestion
@[category research open, AMS 11]
theorem erdos_979 :
    (∀ k ≥ 2, Filter.limsup (fun n => (solutionSet n k).encard) Filter.atTop = ⊤) ↔ answer(sorry) := by
  sorry
```

**Review by Paul-Lez — APPROVED** [review]

**Review by mo271 — APPROVED** [review]
